US07262185B2
4-nitrobenzenethiol (10 g) was dissolved in THF (100 ml), and to this solution was added triethylamine (12.6 ml) and then, bromoacetonitrile (5.4 ml), and the mixture was stirred for 30 minutes. The reaction solution was added to water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure and the obtained residue was washed with hexane/ethyl acetate, to give 2-[(4-nitrophenyl)sulfanyl]acetonitrile (10.3 g).

reactant | 4-nitrobenzenethiol | 10 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | triethylamine | 12.6 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetonitrile | 5.4 ml | BrCC#N | C2H2BrN
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-[(4-nitrophenyl)sulfanyl]acetonitrile | 10.3 g | [N+](=O)([O-])C1=CC=C(C=C1)SCC#N | C8H6N2O2S
